US08183382B2
1. Synthesis of 2-(isopropylthio)benzoic acid
To a suspension of thiosalicylic acid (16.7 g; 109 mmol; Fluka) and isopropyl bromide (20.0 g; 163 mmol) in ethanol (125 ml) were added slowly, with vigorous stirring, KOH pellets (17.3 g; 433 mmol). After stirring for 6 h, the reaction mixture was poured into water-ice mixture (1200 ml) and acidified with concentrated hydrochloric acid (approx. 50 ml). The precipitated product was filtered off, washed with 50% aqueous ethanol (2×100 ml) and dried under reduced pressure. Yield 6.4 g (30%).

reactant | thiosalicylic acid | 109 mmol, 16.7 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | isopropyl bromide | 163 mmol, 20.0 g | C(C)(C)Br | C3H7Br
reactant | KOH | [OH-].[K+]
reactant | hydrochloric acid | approx. 50 ml | Cl | ClH
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 2-(isopropylthio)benzoic acid | C(C)(C)SC1=C(C(=O)O)C=CC=C1 | C10H12O2S
